US06770785B1
Synthesis of 2,6-di-tert-butyl-4[(4-dimethylamino-phenylamino)-methyl]-phenol
4-Bromomethyl-2,6-di-tert-butyl-phenol (2.42 g, 0.008 mole) was dissolved in 50 mL of dry tetrahydrofuran. In a separate conical flask N,N-dimethyl-benzene-1,4-diamine (2.17 g, 0.016 mole) was dissolved in 25 mL of tetrahydrofuran and solution was transferred to a cylindrical funnel with pressure equalizing tube. Three-necked round-bottom flask containing solution of 4-Bromomethyl-2,6-di-tert-butyl-phenol was kept in oil-bath at 85° C. Solution in the flask was continuously stirred with the help of magnetic stirrer. N, N-dimethyl-para-phenylene diamine solution was added drop-by-drop, from funnel to the flask in acidic medium for a span of 4-5 hours till all the solution was poured out. The reaction was terminated after that and the final reaction mixture was allowed to attain room temperature.

reactant | 4-Bromomethyl-2,6-di-tert-butyl-phenol | 0.008 mole, 2.42 g | BrCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C15H23BrO
reactant | N,N-dimethyl-benzene-1,4-diamine | 0.016 mole, 2.17 g | CN(C1=CC=C(C=C1)N)C | C8H12N2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 2,6-di-tert-butyl-4[(4-dimethylamino-phenylamino)-methyl]-phenol | C(C)(C)(C)C1=C(C(=CC(=C1)CNC1=CC=C(C=C1)N(C)C)C(C)(C)C)O | C23H34N2O
